US04575565
Preparation of 3-Methylbenzotrichloride
0.38 moles of sulfuryl chloride in an equal volume of carbon tetrachloride was added dropwise to 21.6 gm (0.11 moles) of 2-(3-methylphenyl)-1,3-dithiolane dissolved in 22 mls of carbon tetrachloride while refluxing and stirring. After the addition, the reaction mixture was stirred for 1 hour at reflux and allowed to cool to room temperature. The solvent was evacuated and the residue Kugelrohr distilled at 65°-70° C. (0.43 mm/Hg) to give 18.32 gm (89.9% yield) of product. NMR and Gas Chromatograph/Mass Spectrometry (GC/MS) Analysis: 1H--NMR (CCl4) δ2.27 (S, CH3), 6.9 to 7.2 and 7.5 to 7.65 (m+ 4H, aryl protons); GCMS (70 ev), M/e (% rel. int.) 212 (M +4, 4), 210 (M+ +2, 12), 208 (M+, 13), 177 (13), 175 (79), 173 (100), 138 (15), 103 (26), 102 (25), 101 (19), 87 (20), 86 (16), 77 (23), 75 (19), 69 (22), 68 (24), 51 (64).

reactant | sulfuryl chloride | 0.38 moles | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-(3-methylphenyl)-1,3-dithiolane | 0.11 moles, 21.6 gm | CC=1C=C(C=CC1)C1SCCS1 | C10H12S2
reactant | carbon tetrachloride | 22 mls | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Methylbenzotrichloride | 18.32 gm, 89.9% yield | CC=1C=C(C=CC1)C(Cl)(Cl)Cl | C8H7Cl3
